US09085555B2
D. 1-Carbamoyl-6-ethyl-1H-indole-3-carboxylic acid
6-Ethyl-3-formyl-indole-1-carboxylic acid amide (720 mg, 3.33 mmol) was dissolved in a mixture of THF (60 mL) and t-butanol (18 mL). 2-methyl-2-butene (2 M solution in THF, 66.6 mL, 133 mmol) was added, followed by a water (16 mL) solution of NaClO2 (80%, 3.76 g, 33.3 mmol) and NaH2PO4 (3.20 g, 26.6 mmol). The resulting solution was stirred at RT for 4 h and THF was concentrated. EtOAc was added and the layers separated. The aqueous layer was acidified by addition of HCl 1N and extracted twice with EtOAc. The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (eluent: c-hexane to EtOAc to CH2Cl2/MeOH 8:2) to give the desired compound. tR (HPLC conditions a): 2.17 min. 1H-NMR (400 MHz, CDCl3): δ (ppm): 12.9 (m, 1H), 8.81 (s, 1H), 8.66 (bs, 1H), 8.23 (d, 1H),), 8.09 (m, 2H), 7.70 (dd, 1H).

reactant | 6-Ethyl-3-formyl-indole-1-carboxylic acid amide | 3.33 mmol, 720 mg | C(C)C1=CC=C2C(=CN(C2=C1)C(=O)N)C=O | C12H12N2O2
reactant | 2-methyl-2-butene | 133 mmol, 2 M, 66.6 mL | CC(C)=CC | C5H10
reactant | water | 16 mL | O | H2O
reactant | NaClO2 | 33.3 mmol, 3.76 g | [O-]Cl=O.[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | t-butanol | 18 mL | C(C)(C)(C)O | C4H10O
product | 1-Carbamoyl-6-ethyl-1H-indole-3-carboxylic acid | C(N)(=O)N1C=C(C2=CC=C(C=C12)CC)C(=O)O | C12H12N2O3
